US08193236B2
6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazine
Bromoacetone (4.3 g, 31.4 mmol, 2.9 equiv) is added to a solution of 5-(tert-butyl-diphenyl-silanyloxymethyl)-pyrazin-2-ylamine (4.0 g, 10.7 mmol) in 1,2-dimethoxyethane (20 ml) and sulfolane (20 ml). The reaction mixture is stirred overnight at 50° C. Then a 10% aqueous solution of NaHCO3 (30 ml) is added, and the mixture is heated to reflux for 1 hour. After cooling, the mixture is extracted three times with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (hexane/EtOAc 3:1) affords the title compound (1.7 g, 40%). 1H NMR (400 MHz, d6-DMSO): δ=8.78 (d, J=0.9 Hz, 1H), 8.43 (d, J=1.4 Hz, 1H), 7.92 (s, 1H), 7.63-7.61 (m, 4H); 7.41-7.35 (m, 6H), 4.72 (s, 2H), 2.34 (s, 3H), 1.00 (s, 9H). MS (ES+): 402 (M+H)+.

reactant | Bromoacetone | 31.4 mmol, 4.3 g, 2.9 equiv | BrCC(C)=O | C3H5BrO
reactant | 5-(tert-butyl-diphenyl-silanyloxymethyl)-pyrazin-2-ylamine | 10.7 mmol, 4.0 g | C(C)(C)(C)[SiH2]OC(C=1N=CC(=NC1)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H25N3OSi
reactant | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | sulfolane | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazine | 1.7 g, 40% | C(C)(C)(C)[SiH2]OC(C=1N=CC=2N(C1)C=C(N2)C)(C2=CC=CC=C2)C2=CC=CC=C2 | C24H27N3OSi
